US07750002B2
To a solution of 1-(4-benzyl-piperazin-1-yl)-2-methoxy-ethanone (6.14 g) in dry THF (80 mL) at −10° C. was added zirconium chloride (5.76 g). After 30 minutes methyl magnesium bromide (3.0M solution in ether, 49.6 mL) was added in a dropwise manner. The reaction mixture was allowed to warm to room temperature. After stirring for 1 day, the reaction mixture was cooled, diluted with chloroform, washed with brine, dried (MgSO4) and the was solvent removed in vacuo. The resulting residue was purified using flash chromatography to yield 1-benzyl-4-(2-methoxy-1,1-dimethyl-ethyl)-piperazine. Subsequent transfer hydrogenation, using ammonium formate and 10% palladium on carbon in MeOH, furnished the desired compound.

reactant | 1-(4-benzyl-piperazin-1-yl)-2-methoxy-ethanone | 6.14 g | C(C1=CC=CC=C1)N1CCN(CC1)C(COC)=O | C14H20N2O2
reactant | methyl magnesium bromide | 3.0M, 49.6 mL | C[Mg]Br
reactant | THF | 80 mL | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | zirconium chloride | 5.76 g | [Cl-].[Zr+4].[Cl-].[Cl-].[Cl-]
product | 1-benzyl-4-(2-methoxy-1,1-dimethyl-ethyl)-piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(COC)(C)C | C16H26N2O
